US07915283B2
Preparation of 4-(1-Phenyl-1-(5-carboxyethylpyridin-3yl)-methylene)-piperidine-1-carboxylic Acid Tert-Butyl Ester
A mixture of 3-trimethylstannyl-5-carboxyethylpyridine (0.298 g, 0.949 mmol) and 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester (0.334 mL, 0.949 mmol) in dry THF (5 mL) was degassed with a stream of Ar bubbles for 10 min. To this solution was added bis(triphenylphosphine)palladium dichloride (0.033 g, 0.047 mmol) and then the reaction vessel was sealed and the mixture was heated at 90° C. (oil bath temperature) for 16 h. The cooled mixture was then evaporated to dryness and the residue chromatographed (SiO2/hexane-EtOAc, 7:3) to give the title compound (0.294 g, 73%) as a clear yellow oil:

reactant | 3-trimethylstannyl-5-carboxyethylpyridine | 0.949 mmol, 0.298 g | C[Sn](C=1C=NC=C(C1)CCC(=O)O)(C)C
reactant | 4-(1-bromo-1-phenyl-methylene)-piperidine-1-carboxylic acid tert-butyl ester | 0.949 mmol, 0.334 mL | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C1=CC=CC=C1)Br | C17H22BrNO2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
catalyst | bis(triphenylphosphine)palladium dichloride | 0.047 mmol, 0.033 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 4-(1-Phenyl-1-(5-carboxyethylpyridin-3yl)-methylene)-piperidine-1-carboxylic Acid Tert-Butyl Ester | 0.294 g, 73% | C(C)(C)(C)OC(=O)N1CCC(CC1)=C(C=1C=NC=C(C1)CCC(=O)O)C1=CC=CC=C1 | C25H30N2O4
